US07279494B2
I. benzyl 4-formylphenylcarbamate
Benzyl 4-bromophenylcarbamate (20 g, 65.3 mmol) was taken in anhydrous THF (440 mL) and cooled to −78° C. To this solution, n-BuLi (55 mL, 137.2 mmol) was added dropwise and stirred for 0.5 h at −78° C. To this mixture, DMF (7.6 mL) was added dropwise and the reaction was allowed to warm to room temperature over a period of 5 h. The reaction mixture was quenched with 1 N HCl and then concentrated to remove THF, followed by addition of water. The mixture was extracted with three portions of ethyl acetate. The combined organic phases were washed with H2O, brine, and dried (MgSO4) filtered and concentrated. Trituration with hexanes and then with 20% ethyl acetate in hexanes afforded the title compound as a yellow solid.

reactant | Benzyl 4-bromophenylcarbamate | 65.3 mmol, 20 g | BrC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C14H12BrNO2
reactant | n-BuLi | 137.2 mmol, 55 mL | [Li]CCCC
reactant | DMF | 7.6 mL | CN(C)C=O | C3H7NO
solvent | THF | 440 mL | C1CCOC1 | C4H8O
product | benzyl 4-formylphenylcarbamate | C(=O)C1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C15H13NO3
